US05607930
A solution of BOC-(L)-proline in 60 ml of anhydrous THF, cooled at -10° C. with brine, is added with 6.1 ml of triethylamine and 1 g of 4 A molecular sieves, then, keeping the temperature below -5° C., a solution of 4.16 ml of ethyl chloroformate in 5 ml of anhydrous THF is dropped therein. After 30 minutes under stirring, the reaction mixture is filtered to remove the triethylammonium chloride precipitate and the filtrate is concentrated under reduced pressure to a volume of 30 ml. The resulting solution is dropped into a suspension of 7.5 g of sodium borohydride in 50 ml of anhydrous THF, cooled at -10° C. with brine. After 2 hours the reaction mixture is added with 200 ml of an aqueous saturated solution of sodium dihydrogen phosphate, keeping the temperature at 0° C. with water/ice, then it is extracted with ethyl acetate (3×50 ml). The combined organic extracts are washed repeatedly with an aqueous saturated solution of sodium bicarbonate (3×30 ml), dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue, by crystallization from hexane, yields 6.1 g of BOC-(L)-prolinol, m.p. 59°-60° C., [α]D =-54.9° (c=0.2 in EtOH).

reactant | BOC-(L)-proline | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 4.16 ml | ClC(=O)OCC | C3H5ClO2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | BOC-(L)-prolinol | 6.1 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
